US07741341B2
(iv) 1H-Benzoimidazole-2-carboxylic acid [4-(4-oxo-4H-pyridin-1-yl)-phenyl]-amide
A solution of 769 mg 2-Trichloromethyl-1H-benzoimidazole in 10 mL THF were slowly added to a mixture containing 304 mg 1-(4-Amino-phenyl)-1H-pyridin-4-one, 1.3 g NaHCO3, 40 mL THF and 15 mL H2O. The mixture was stirred vigorously for 3 h at room temperature, diluted with 200 mL CH2Cl2 and washed with 40 mL of a saturated NaHCO3-solution. The aqueous solution was extracted with CH2Cl2 (3×200 ml) and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give a brown solid, which was pure enough for the following reactions.

reactant | 2-Trichloromethyl-1H-benzoimidazole | 769 mg | ClC(C1=NC2=C(N1)C=CC=C2)(Cl)Cl | C8H5Cl3N2
reactant | 1-(4-Amino-phenyl)-1H-pyridin-4-one | 304 mg | NC1=CC=C(C=C1)N1C=CC(C=C1)=O | C11H10N2O
reactant | NaHCO3 | 1.3 g | C(=O)(O)[O-].[Na+]
reactant | H2O | 15 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1H-Benzoimidazole-2-carboxylic acid [4-(4-oxo-4H-pyridin-1-yl)-phenyl]-amide | O=C1C=CN(C=C1)C1=CC=C(C=C1)NC(=O)C1=NC2=C(N1)C=CC=C2 | C19H14N4O2
